US06855715B1
To a solution of 4-fluoro-3-methoxyaniline (0.98 g 6.9 mmol) in ethanol (20 ml) was added glyoxal 1,1-dimethyl acetal (0.89 g 8.27 mmol). Pd/C 5% (50 mg) was added and the mixture hydrogenated. Removal of the catalyst by filtration and evaporation of solvent in vacuo gave N-(2,2-dimethoxyethyl)-4-fluoro-3-methoxyaniline 1.6 g

reactant | 4-fluoro-3-methoxyaniline | 6.9 mmol, 0.98 g | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | glyoxal 1,1-dimethyl acetal | 8.27 mmol, 0.89 g | COC(C=O)OC | C4H8O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-(2,2-dimethoxyethyl)-4-fluoro-3-methoxyaniline | 1.6 g | COC(CNC1=CC(=C(C=C1)F)OC)OC | C11H16FNO3
